US07125877B2
1) 4-Chloro-5-(4-ethylpiperazin-1-yl)-2-nitroaniline
To a solution of 20.0 g of 4,5-dichloro-2-nitroaniline and 16.0 g of 1-ethylpiperazine in 50 ml of dimethylsulfoxide, 20.0 g of potassium carbonate was added, followed by 2 hours' stirring at 120° C. Water was added to the reaction liquid, followed by extraction with diethyl ether. The diethyl ether layer was successively washed with water and saturated brine, dried on anhydrous magnesium sulfate, and the solvent was distilled off. The residue was recrystallized from chloroform-diethyl ether, to provide 20.3 g of the title compound.

reactant | 4,5-dichloro-2-nitroaniline | 20.0 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | 1-ethylpiperazine | 16.0 g | C(C)N1CCNCC1 | C6H14N2
reactant | potassium carbonate | 20.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 4-Chloro-5-(4-ethylpiperazin-1-yl)-2-nitroaniline | 20.3 g | ClC1=CC(=C(N)C=C1N1CCN(CC1)CC)[N+](=O)[O-] | C12H17ClN4O2
